US06599917B1
e) 6-Hydroxymethyl-2-benzoyl-3-benzyloxypyridine
113 g of 2-benzoyl-3-benzyloxy-6-methylpyridine was dissolved in 600 ml of dichloromethane. 96 g of 3-chloroperbenzoic acid was added thereto, followed by stirring under heating at 50° C. in an oil bath. After cooling in a water bath, an aqueous sodium sulfite solution and further an aqueous saturated sodium bicarbonate solution were added to the reaction solution. The organic phase was separated, further washed with an aqueous saturated sodium bicarbonate solution and brine. Then, it was dried over anhydrous magnesium sulfate and the solvent was removed. The resulting residue was dissolved in 200 ml of acetic acid anhydride, followed by heating under stirring at 150° C. for 3 hours in an oil bath. Then, the solvent was removed and 400 ml of methanol and 200 ml of an aqueous 2N sodium hydroxide solution were further added thereto, followed by heating under stirring at 60° C. for 3 hours in an oil bath. Activated carbon was added to the reaction solution. After stirring for a while, it was filtered off. Water was added to the filtrate to precipitate crystals. The resulting crystals were collected by filtration and vacuum-dried, to give 116 g of the target compound.

reactant | 2-benzoyl-3-benzyloxy-6-methylpyridine | 113 g | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1OCC1=CC=CC=C1)C | C20H17NO2
reactant | 3-chloroperbenzoic acid | 96 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 6-Hydroxymethyl-2-benzoyl-3-benzyloxypyridine | 116 g | OCC1=CC=C(C(=N1)C(C1=CC=CC=C1)=O)OCC1=CC=CC=C1 | C20H17NO3
